US05631401
N-Propargyl-N-(4-phenoxybenzyl)amine
4-Phenoxybenzaldehyde (5.0 g, 25.2 mmol) and propargylamine (1.46 g, 26.5 mmol) were dissolved in 100 mL of 1% acetic acid in methanol under an atmosphere of dry nitrogen. Sodium cyanoborohydride (1.66 g, 26.5 mmol) was added, and stirring was continued for 18 hours at which time the solvent was removed under reduced pressure. The residue was suspended in ether, washed with 5% NaHCO3 and brine, and dried over Na2SO4 to give 5.6 g (93%) of the title compound.

reactant | 4-Phenoxybenzaldehyde | 25.2 mmol, 5.0 g | O(C1=CC=CC=C1)C1=CC=C(C=O)C=C1 | C13H10O2
reactant | propargylamine | 26.5 mmol, 1.46 g | C(C#C)N | C3H5N
reactant | Sodium cyanoborohydride | 26.5 mmol, 1.66 g | C(#N)[BH3-].[Na+]
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
solvent | methanol | CO | CH4O
product | N-Propargyl-N-(4-phenoxybenzyl)amine | 5.6 g, 93% | C(C#C)NCC1=CC=C(C=C1)OC1=CC=CC=C1 | C16H15NO
